US05602145
d) 2-methylcarbonylmethoxy-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one
To a solution consisting of 7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one (2.0 g, 10.4 mmol) in tetrahydrofuran (300 mL) was added sodium hydride (500 mg, 60% suspension in oil, 12.5 mmol). To the resulting mixture was added methyl bromoacetate (1.1 mL, 11 mmol). After 3 hours, ethyl acetate (20 mL) was added followed by water (25 mL). The solution was concentrated and the resulting oil was partitioned between ethyl acetate and water (1:1,200 mL). The layers were separated and the organic layer was washed successively with water (1×100 mL) and brine (1 ×100 mL). The organic layer was dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was treated with ethyl acetate and a solid formed. The solution was filtered to give the title compound (1.6 g, 55% yield).

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one | 10.4 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C2CCNC(C2=C1)=O | C9H8N2O3
reactant | sodium hydride | 12.5 mmol, 500 mg | [H-].[Na+]
reactant | methyl bromoacetate | 11 mmol, 1.1 mL | BrCC(=O)OC | C3H5BrO2
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | water | 25 mL | O | H2O
product | 2-methylcarbonylmethoxy-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-one | 1.6 g, 55% yield | CC(=O)CON1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])=O | C12H12N2O5
